US09034900B2
Step 3: 4-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-2-methyl-6-(1-methylpyrazol-4-yl)isoquinolin-1-one
A mixture of 2-bromo-1-(cyclopropylmethoxy)-4-methanesulfonylbenzene (20.8 mg, 0.068 mmol), 2-methyl-6-(1-methylpyrazol-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one (30 mg, 0.08 mmol), NaHCO3 (14.28 mg, 0.17 mmol), and Pd(dppf)Cl2 (10 mg, 0.014 mmol) in dioxane (2.0 mL) and H2O (0.5 mL) was microwaved under N2 at 100° C. for 30 min. Purification by preparative HPLC gave the title compound (11 mg, 28%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 8.48 (d, J=8.4 Hz, 1H), 7.98-8.04 (m, 1H), 7.89 (d, J=2.4 Hz, 1H), 7.68 (s, 1H), 7.63 (s, 1H), 7.58-7.62 (m, 1H), 7.19-7.21 (m, 1H), 7.11-7.15 (m, 1H), 7.09 (s, 1H), 3.93 (s, 3H), 3.83-3.91 (m, 2H), 3.66 (s, 3H), 3.12 (s, 3H), 0.94-1.04 (m, 1H), 0.30-0.40 (m, 2H), 0.00-0.12 (m, 2H). LCMS: 464.1 (M+H)+

reactant | 2-bromo-1-(cyclopropylmethoxy)-4-methanesulfonylbenzene | 0.068 mmol, 20.8 mg | BrC1=C(C=CC(=C1)S(=O)(=O)C)OCC1CC1 | C11H13BrO3S
reactant | 2-methyl-6-(1-methylpyrazol-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one | 0.08 mmol, 30 mg | CN1C(C2=CC=C(C=C2C(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NN(C1)C)=O | C20H24BN3O3
reactant | NaHCO3 | 0.17 mmol, 14.28 mg | C(=O)(O)[O-].[Na+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.5 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.014 mmol, 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-2-methyl-6-(1-methylpyrazol-4-yl)isoquinolin-1-one | 11 mg, 28% | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)C1=CN(C(C2=CC=C(C=C12)C=1C=NN(C1)C)=O)C | C25H25N3O4S
